US09029409B2
To a cold stirred solution of methyl 4-(3-(6-(4-fluoro-3-methoxybenzylcarbamoyl)-2-methylpyrimidin-4-yl)-4,5-dihydroisoxazol-5-yl)benzoate (0.3 g, 0.62 mmol, G.1.29) in THF/water (1:1) was added lithium hydroxide (0.03 g, 1.2 mmol, Sd Fine Chem). The reaction mixture was stirred for about 3 h at RT and excess solvent was removed under reduced pressure. The aqueous layer was acidified with 10% HCl solution. The solid was collected by filtration, washed with water and dried under vacuum to afford 4-(3-(6-(4-fluoro-3-methoxybenzylcarbamoyl)-2-methylpyrimidin-4-yl)-4,5-dihydroisoxazol-5-yl)benzoic acid. (0.2 g), (69%).

reactant | methyl 4-(3-(6-(4-fluoro-3-methoxybenzylcarbamoyl)-2-methylpyrimidin-4-yl)-4,5-dihydroisoxazol-5-yl)benzoate | 0.62 mmol, 0.3 g | FC1=C(C=C(CNC(=O)C2=CC(=NC(=N2)C)C2=NOC(C2)C2=CC=C(C(=O)OC)C=C2)C=C1)OC | C25H23FN4O5
reactant | lithium hydroxide | 1.2 mmol, 0.03 g | [OH-].[Li+]
solvent | THF water | C1CCOC1.O
product | 4-(3-(6-(4-fluoro-3-methoxybenzylcarbamoyl)-2-methylpyrimidin-4-yl)-4,5-dihydroisoxazol-5-yl)benzoic acid | FC1=C(C=C(CNC(=O)C2=CC(=NC(=N2)C)C2=NOC(C2)C2=CC=C(C(=O)O)C=C2)C=C1)OC | C24H21FN4O5
